US08236806B2
1-(3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propyl)-4-(4-methoxyphenyl)piperazine (Compound 27)
77 mg (72%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propanal (60 mg, 0.222 mmol), 1-(4-methoxyphenyl)piperazine (43 mg, 0.222 mmol), DIPEA (0.06 mL, 0.333 mmol) and NaBH(OAc)3 (141 mg, 0.666 mmol).

reactant | 3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propanal | 0.222 mmol, 60 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)C)CCC=O | C17H22N2O
reactant | 1-(4-methoxyphenyl)piperazine | 0.222 mmol, 43 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | DIPEA | 0.333 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.666 mmol, 141 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propyl)-4-(4-methoxyphenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)C)CCCN1CCN(CC1)C1=CC=C(C=C1)OC | C28H38N4O
